US06169107A
The reaction was carried out in a manner similar to Example 1 except for using 1.50 g (4.73 mmol) of ethyl 1-methyl-4-(2-tetrahydropyranyl)oxymethyl-2-indolecarboxylate, 6.02 g (63.0 mmol) of guanidine hydrochloride and a solution of 3.40 g (63.0 mmol) of sodium methoxide in 60 ml of methanol. 1-Methyl-4-(2-tetrahydropyranyl)oxymethyl-2-indoloylguanidine was obtained. After the compound was dissolved in a mixture of 30 ml of 2N hydrochloric acid and 60 ml of tetrahydrofuran, the mixture was stirred at room temperature for an hour. The reaction mixture was poured onto ice water and the aqueous layer was rendered alkaline with 28% aqueous ammonia. The mixture was then extracted three times with ethyl acetate. The combined extracts were washed with saturated sodium chloride solution. After drying over anhydrous magnesium sulfate, the solvent was distilled off under reduced pressure. The resulting residue was purified by silica gel column chromatography to give 4-hydroxymethyl-1-methyl-2-indoloylguanidine. Next, the compound was treated with hydrogen chloride/methanol to convert into the hydrochloride. 4-Hydroxymethyl-1-methyl-2-indoloylguanidine hydrochloride was thus obtained in an amount of 0.58 g (44.2%).

reactant | ethyl 1-methyl-4-(2-tetrahydropyranyl)oxymethyl-2-indolecarboxylate | 4.73 mmol, 1.50 g | CN1C(=CC2=C(C=CC=C12)COC1OCCCC1)C(=O)OCC | C18H23NO4
reactant | guanidine hydrochloride | 63.0 mmol, 6.02 g | Cl.NC(=N)N
reactant | sodium methoxide | 63.0 mmol, 3.40 g | C[O-].[Na+]
solvent | methanol | 60 ml | CO | CH4O
product | 1-Methyl-4-(2-tetrahydropyranyl)oxymethyl-2-indoloylguanidine | CNC(=NC(=O)C=1NC2=CC=CC(=C2C1)COC1OCCCC1)N | C17H22N4O3
